US04686227
A mixture of 2-methyl-3-trimethylammoniomethylimidazo[2,1-a]isoquinoline methylsulfate (3 g) and 2-methylimidazole (1.6 g) in ethanol (50 ml) was refluxed with stirring for 4 hours and evaporated in vacuo. To the residue was added water and the resulting precipitates were collected by filtration, dried and recrystallized from ethyl acetate to give 2-methyl-3-(2-methyl-1-imidazolylmethyl)imidazo[2,1-a]isoquinoline (0.85 g).

reactant | 2-methyl-3-trimethylammoniomethylimidazo[2,1-a]isoquinoline methylsulfate | 3 g | COS(=O)(=O)[O-].CC=1N=C2N(C=CC3=CC=CC=C23)C1C[N+](C)(C)C
reactant | 2-methylimidazole | 1.6 g | CC=1NC=CN1 | C4H6N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-methyl-3-(2-methyl-1-imidazolylmethyl)imidazo[2,1-a]isoquinoline | 0.85 g | CC=1N=C2N(C=CC3=CC=CC=C23)C1CC1(N=CC=N1)C | C17H16N4
